**************************************************
* Manufacturer:       Wurth Elektronik
* Kinds:    Visible THT LED 
* Matchcode:          WL-TMRC THT Mono-color Round Color
* Library Type:       Pspice
* Version:        rev18a       
* Date and Time   :       2018-8-4
* Team:           eiSos EDA Service  
* Contact:        libraries@we-online.com
**************************************************
.subckt  3mm_151031VS04000  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=1.8395
+ RS=.70538
+ IKF=5.2223
+ CJO=0.000000000042598
+ M=0.96987
+ VJ=10
.ends
******

.subckt  3mm_151031SS04000  1  2
D1 1 2 led
.MODEL led D
+ IS=4.5646E-9
+ N=4.9950
+ RS=1.0000E-6
+ IKF=999
+ CJO=6.5159E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  3mm_151031VS06000  1  2
D1 1 2 led
.MODEL led D
+ IS=2.0094E-9
+ N=4.9950
+ RS=8.7975
+ IKF=999
+ CJO=2.1026E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  3mm_151031YS05900  1  2
D1 1 2 led
.MODEL led D
+ IS=4.5520E-9
+ N=4.9950
+ RS=10.746
+ IKF=999
+ CJO=4.3230E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  3mm_151031YS06000  1  2
D1 1 2 led
.MODEL led D
+ IS=2.7995E-9
+ N=4.9950
+ RS=1.0000E-6
+ IKF=999
+ CJO=7.4260E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  3mm_151039SS04000  1  2
D1 1 2 led
.MODEL led D
+ IS=4.5085E-9
+ N=4.9950
+ RS=1.0000E-6
+ IKF=999
+ CJO=6.7762E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  5mm_151051BS04000  1  2
D1 1 2 led
.MODEL led D
+ IS=10.021E-12
+ N=4.9950
+ RS=9.1877
+ IKF=999
+ CJO=3.6893E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  5mm_151051RS11000  1  2
D1 1 2 led
.MODEL led D
+ IS=8.4111E-9
+ N=4.9950
+ RS=1.0000E-6
+ IKF=999
+ CJO=6.5860E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  5mm_151051VS04000  1  2
D1 1 2 led
.MODEL led D
+ IS=2.2857E-9
+ N=4.9950
+ RS=1.0000E-6
+ IKF=999
+ CJO=5.1101E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  5mm_151051YS04000  1  2
D1 1 2 led
.MODEL led D
+ IS=1E-20
+ N=1.8233
+ RS=1.502
+ IKF=10.307
+ CJO=0.0000000000083552
+ M=0.2839
+ VJ=1.229
.ends
******
.subckt  5mm_151051SS04000  1  2
D1 2 1 led
.MODEL led D
+ IS=379.12E-21
+ N=1.9094
+ RS=.54684
+ IKF=4.4895E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  3mm_151031SS06000  1  2
D1 2 1 led
.MODEL led D
+ IS=10.010E-21
+ N=1.9707
+ RS=1.0000E-6
+ IKF=999
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******




























