.subckt 3535_159353940A6300 1 2
D1 1 2 A6300
.MODEL A6300 D
+ IS=71.430E-15
+ N=1.5005
+ RS=.11276
+ IKF=757.64E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
***********************
.subckt 3535_159353940B1300 1 2
D1 1 2 B1300
.MODEL B1300 D
+ IS=1.9176E-9
+ N=2.7798
+ RS=68.754E-3
+ IKF=2.0609
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends

